US07629488B2
Step D. 3-(2-{1-[[2-tert-Butoxycarbonylamino-3-(4-carbamoyl-2,6-dimethyl-phenyl)-propionyl]-(3,4-dimethoxy-benzyl)-amino]-ethyl}-1H-imidazol-4-yl)-benzoic acid
To a solution of [1-[{1-[4-(3-bromo-phenyl)-1H-imidazol-2-yl]-ethyl}-(3,4-dimethoxy-benzyl)-carbamoyl]-2-(4-carbamoyl-2,6-dimethyl-phenyl)-ethyl]-carbamic acid tert-butyl ester (290 mg; 0.40 mmol) in DMF (5 mL) was added K2CO3 (262 mg; 1.9 mmol) and the resulting mixture was degassed with Argon for 5 min. At this time, Pd(OAc)2 (8.9 mg; 0.04 mmol) and 1,1-bis(diphenylphosphino)ferrocene (46 mg; 0.083 mmol) were added. Carbon monoxide was then bubbled through the resulting mixture for 10 min at room temperature, the reaction was capped, and warmed to 100° C. for 6 h. After cooling to room temperature the mixture was partitioned between EtOAc and water, filtered through Celite, and then separated. The aqueous phase was then washed with a second portion of EtOAc. The aqueous phase was then acidified to pH 5 with 2N citric acid and the resulting aqueous solution extracted with EtOAc (4×). These latter EtOAc extracts were combined, dried over Na2SO4, filtered, and concentrated under reduced pressure to yield the crude product (HPLC: 87% at 254 nm).

reactant | [1-[{1-[4-(3-bromo-phenyl)-1H-imidazol-2-yl]-ethyl}-(3,4-dimethoxy-benzyl)-carbamoyl]-2-(4-carbamoyl-2,6-dimethyl-phenyl)-ethyl]-carbamic acid tert-butyl ester | 0.40 mmol, 290 mg | C(C)(C)(C)OC(NC(CC1=C(C=C(C=C1C)C(N)=O)C)C(N(CC1=CC(=C(C=C1)OC)OC)C(C)C=1NC=C(N1)C1=CC(=CC=C1)Br)=O)=O | C37H44BrN5O6
reactant | K2CO3 | 1.9 mmol, 262 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | Pd(OAc)2 | 0.04 mmol, 8.9 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | 1,1-bis(diphenylphosphino)ferrocene | 0.083 mmol, 46 mg | [CH-]1C=CC=C1P(C2=CC=CC=C2)C3=CC=CC=C3.[CH-]1C=CC=C1P(C2=CC=CC=C2)C3=CC=CC=C3.[Fe+2]
product | 3-(2-{1-[[2-tert-Butoxycarbonylamino-3-(4-carbamoyl-2,6-dimethyl-phenyl)-propionyl]-(3,4-dimethoxy-benzyl)-amino]-ethyl}-1H-imidazol-4-yl)-benzoic acid | 87% | C(C)(C)(C)OC(=O)NC(C(=O)N(C(C)C=1NC=C(N1)C=1C=C(C(=O)O)C=CC1)CC1=CC(=C(C=C1)OC)OC)CC1=C(C=C(C=C1C)C(N)=O)C | C38H45N5O8
